* Arm A oscillator 14: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 14: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 31.0598
Cg0 i1_A 0 1.425670e-16
Cg1 nand_Y 0 1.425670e-16
Cc0 i1_A nand_B 1.025040e-17
Cx0 i1_A 0 0.000000e+00
Cx1 i1_A 0 0.000000e+00
Cx2 i1_A 0 1.511360e-16
Cx3 i1_A 0 1.595240e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 3.381360e-17
Cg3 i1_Y 0 3.381360e-17
Cx4 i2_A 0 9.562540e-17
Rn10_2 i10_Y i11_A 29.8545
Cg4 i11_A 0 1.468930e-16
Cg5 i10_Y 0 1.468930e-16
Cc1 i11_A i10_A 6.051610e-18
Cx5 i11_A 0 9.603370e-18
Cx6 i11_A 0 6.654460e-18
Cx7 i11_A 0 2.971260e-17
Cx8 i11_A 0 0.000000e+00
Rn11_3 i11_Y i12_A 30.9348
Cg6 i12_A 0 1.996290e-16
Cg7 i11_Y 0 1.996290e-16
Cx9 i12_A 0 3.483310e-17
Cx10 i12_A 0 6.838620e-17
Cx11 i12_A 0 0.000000e+00
Cx12 i12_A 0 7.664930e-17
Rn12_4 i12_Y i13_A 32.5866
Cg8 i13_A 0 3.281550e-16
Cg9 i12_Y 0 3.281550e-16
Cc2 i13_A i22_A 0.000000e+00
Cx13 i13_A 0 3.325400e-17
Cx14 i13_A 0 0.000000e+00
Cx15 i13_A 0 1.374930e-17
Rn13_5 i13_Y i14_A 19.4973
Cg10 i14_A 0 3.815500e-17
Cg11 i13_Y 0 3.815500e-17
Cx16 i14_A 0 5.170130e-17
Rn14_6 i14_Y i15_A 31.9973
Cg12 i15_A 0 1.493550e-16
Cg13 i14_Y 0 1.493550e-16
Cc3 i15_A i16_A 6.838620e-17
Cc4 i15_A i17_A 1.484490e-16
Cc5 i15_A s1359_12 1.212540e-16
Cx17 i15_A 0 3.700360e-17
Cx18 i15_A 0 1.634240e-16
Rn15_7 i15_Y s1359_12 20.5768
Rn15_8 s1359_12 i16_A 10.3580
Rn15_9 s1359_12 buf_A 9.3000
Cg14 buf_A 0 0.000000e+00
Cg15 i16_A 0 4.540980e-17
Cg16 i15_Y 0 9.580700e-17
Cg17 s1359_12 0 1.412170e-16
Cx19 s1359_12 0 1.489110e-16
Cx20 i16_A 0 2.120050e-17
Rn16_10 i16_Y i17_A 31.3277
Cg18 i17_A 0 1.881770e-16
Cg19 i16_Y 0 1.881770e-16
Cc6 i17_A i18_A 5.821450e-17
Cx21 i17_A 0 7.661200e-18
Cx22 i17_A 0 3.451700e-17
Rn17_11 i17_Y i18_A 20.8277
Cg20 i18_A 0 1.025450e-16
Cg21 i17_Y 0 1.025450e-16
Cc7 i18_A i19_A 2.546480e-17
Rn18_12 i18_Y i19_A 20.9795
Cg22 i19_A 0 1.736720e-16
Cg23 i18_Y 0 1.736720e-16
Cc8 i19_A i20_A 1.846490e-17
Rn19_13 i19_Y i20_A 20.8277
Cg24 i20_A 0 1.146890e-16
Cg25 i19_Y 0 1.146890e-16
Cc9 i20_A i21_A 2.888000e-17
Rn2_14 i2_Y i3_A 29.8098
Cg26 i3_A 0 8.362900e-17
Cg27 i2_Y 0 8.362900e-17
Cc10 i3_A i5_A 2.354100e-17
Cx23 i3_A 0 1.281540e-16
Cx24 i3_A 0 7.561520e-17
Cx25 i3_A 0 1.322760e-17
Rn20_15 i20_Y i21_A 21.1313
Cg28 i21_A 0 1.542030e-16
Cg29 i20_Y 0 1.542030e-16
Cc11 i21_A i22_A 2.546480e-17
Rn21_16 i21_Y i22_A 31.8902
Cg30 i22_A 0 1.957230e-16
Cg31 i21_Y 0 1.957230e-16
Cc12 i22_A i23_A 2.807150e-17
Cx26 i22_A 0 2.807150e-17
Cx27 i22_A 0 2.270210e-16
Rn22_17 i22_Y i23_A 20.6982
Cg32 i23_A 0 6.661610e-17
Cg33 i22_Y 0 6.661610e-17
Cc13 i23_A i24_A 5.779560e-17
Cx28 i23_A 0 2.536600e-17
Cx29 i23_A 0 7.856630e-17
Cx30 i23_A 0 7.166470e-17
Rn23_18 i23_Y i24_A 21.2518
Cg34 i24_A 0 8.039510e-17
Cg35 i23_Y 0 8.039510e-17
Cx31 i24_A 0 1.603390e-16
Cx32 i24_A 0 5.063450e-17
Rn24_19 i24_Y i25_A 30.2652
Cg36 i25_A 0 1.110560e-16
Cg37 i24_Y 0 1.110560e-16
Cc14 i25_A i26_A 1.580520e-16
Cx33 i25_A 0 7.418110e-17
Cx34 i25_A 0 1.264390e-16
Rn25_20 i25_Y i26_A 34.9795
Cg38 i26_A 0 3.526510e-16
Cg39 i25_Y 0 3.526510e-16
Cc15 i26_A i27_A 2.798270e-17
Cx35 i26_A 0 0.000000e+00
Cx36 i26_A 0 1.278820e-16
Cx37 i26_A 0 1.647210e-16
Rn26_21 i26_Y i27_A 20.8277
Cg40 i27_A 0 9.968740e-17
Cg41 i26_Y 0 9.968740e-17
Cc16 i27_A i28_A 1.896950e-17
Cx38 i27_A 0 0.000000e+00
Cx39 i27_A 0 1.461760e-16
Rn27_22 i27_Y i28_A 29.8545
Cg42 i28_A 0 1.012910e-16
Cg43 i27_Y 0 1.012910e-16
Cc17 i28_A i30_A 2.808530e-17
Cx40 i28_A 0 1.206970e-16
Cx41 i28_A 0 2.808530e-17
Cx42 i28_A 0 5.456860e-17
Rn28_23 i28_Y i29_A 19.4973
Cg44 i29_A 0 2.686870e-17
Cg45 i28_Y 0 2.686870e-17
Cc18 i29_A i30_A 8.982960e-17
Cx43 i29_A 0 8.982960e-17
Rn29_24 i29_Y i30_A 22.5420
Cg46 i30_A 0 1.141440e-16
Cg47 i29_Y 0 1.141440e-16
Cc19 EN i30_A 3.018830e-16
Cx44 i30_A 0 1.760300e-16
Rn3_25 i3_Y i4_A 31.3902
Cg48 i4_A 0 1.145730e-16
Cg49 i3_Y 0 1.145730e-16
Cc20 i4_A i5_A 7.836590e-17
Cc21 i4_A i7_A 3.479840e-17
Cx45 i4_A 0 3.140080e-17
Cx46 i4_A 0 1.490470e-16
Cx47 i4_A 0 1.565670e-16
Cx48 i4_A 0 1.565670e-16
Rn30_26 i30_Y nand_B 31.6804
Cg50 nand_B 0 2.573320e-16
Cg51 i30_Y 0 2.573320e-16
Cx49 nand_B 0 0.000000e+00
Cx50 nand_B 0 2.056320e-16
Cx51 nand_B 0 5.523020e-17
Cx52 nand_B 0 3.180560e-17
Rn4_27 i4_Y i5_A 33.6491
Cg52 i5_A 0 3.007390e-16
Cg53 i4_Y 0 3.007390e-16
Cc22 i5_A i7_A 1.976050e-16
Cx53 i5_A 0 1.214160e-16
Cx54 i5_A 0 2.996260e-17
Cx55 i5_A 0 8.455870e-17
Rn5_28 i5_Y i6_A 31.3455
Cg54 i6_A 0 2.219950e-16
Cg55 i5_Y 0 2.219950e-16
Cc23 i6_A i7_A 1.643420e-16
Cx56 i6_A 0 6.712950e-17
Cx57 i6_A 0 0.000000e+00
Cx58 i6_A 0 0.000000e+00
Rn6_29 i6_Y i7_A 45.2295
Cg56 i7_A 0 4.023130e-16
Cg57 i6_Y 0 4.023130e-16
Cx59 i7_A 0 2.283780e-17
Cx60 i7_A 0 8.258430e-18
Cx61 i7_A 0 2.870410e-17
Cx62 i7_A 0 2.219740e-16
Cx63 i7_A 0 0.000000e+00
Cx64 i7_A 0 1.253160e-16
Cx65 i7_A 0 2.990610e-17
Rn7_30 i7_Y i8_A 19.4973
Cg58 i8_A 0 3.571940e-17
Cg59 i7_Y 0 3.571940e-17
Cx66 i8_A 0 9.441940e-17
Rn8_31 i8_Y i9_A 19.4973
Cg60 i9_A 0 3.459820e-17
Cg61 i8_Y 0 3.459820e-17
Cx67 i9_A 0 9.479740e-17
Rn9_32 i9_Y i10_A 30.1134
Cg62 i10_A 0 1.680130e-16
Cg63 i9_Y 0 1.680130e-16
Cx68 i10_A 0 3.319650e-17
Cx69 i10_A 0 2.354100e-17
Cx70 i10_A 0 0.000000e+00
Rout_33 buf_X s1384_12 47.1750
Cg64 buf_X 0 2.446650e-15
Cg65 s1384_12 0 2.446650e-15
Cx71 s1384_12 0 1.032530e-16
Cx72 s1384_12 0 1.281460e-16
Cx73 s1384_12 0 3.054750e-17
Cx74 s1384_12 0 0.000000e+00

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
